US09334290B2
A mixture of 3-bromo-2-chloroaniline [prepared according to the procedure described in U.S. Pat. No. 8,242,260] (240 mg, 1.162 mmol) and toluene (10 mL) at 0° C. was slowly treated with 2 M trimethylaluminum in toluene (0.99 mL, 1.98 mmol). The mixture was allowed to warm to room temperature and stirred for 15 min. A partial suspension of 1-methyl-1H-benzo[d][1,3]oxazine-2,4-dione (300 mg, 1.52 mmol) in toluene (4 mL) was added slowly. The resulting mixture was heated at 50° C. for 4 h, cooled to 0° C., and treated dropwise with 1M aqueous HCl until no more gas evolution was observed. The mixture was stirred for 2 h while warming to room temperature, then was extracted with EtOAc. The organic phase was washed sequentially with NaHCO3 and brine, dried and concentrated. The residue was purified by column chromatography on silica gel (80 g), eluting with EtOAc-hexanes (gradient from 0-30%), to provide N-(3-bromo-2-chlorophenyl)-2-(methylamino)benzamide as a yellow solid (110 mg, 28% yield). Mass spectrum m/z 339, 341 (M+H)+. 1H NMR (400 MHz, DMSO-d6) δ 10.00 (s, 1H), 7.78 (dd, J=7.9, 1.5 Hz, 1H), 7.67 (dd, J=8.1, 1.5 Hz, 1H), 7.57 (dd, J=8.0, 1.4 Hz, 1H), 7.53 (d, J=1.3 Hz, 1H), 7.38 (ddd, J=8.4, 7.1, 1.4 Hz, 1H), 7.32 (t, J=8.0 Hz, 1H), 6.70 (d, J=8.4 Hz, 1H), 6.68-6.61 (m, 1H), 2.79 (d, J=5.1 Hz, 3H).

reactant | 3-bromo-2-chloroaniline | BrC=1C(=C(N)C=CC1)Cl | C6H5BrClN
reactant | trimethylaluminum | 2 M | C[Al](C)C
reactant | 1-methyl-1H-benzo[d][1,3]oxazine-2,4-dione | 1.52 mmol, 300 mg | CN1C(OC(C2=C1C=CC=C2)=O)=O | C9H7NO3
reactant | HCl | 1M | Cl | ClH
solvent | toluene | 4 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 1.98 mmol, 0.99 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | N-(3-bromo-2-chlorophenyl)-2-(methylamino)benzamide | 110 mg, 28% yield | BrC=1C(=C(C=CC1)NC(C1=C(C=CC=C1)NC)=O)Cl | C14H12BrClN2O
